US07858809B2
N-Cyclopropylmethyl-2-ethyl-7-iodo-N-(tetrahydro-2H-pyran-4-ylmethyl)pyrazolo[1,5-a]pyridine-3-amine
To N-cyclopropylmethyl-2-ethyl-7-iodo-N-(tetrahydro-2H-pyran-4-ylmethyl)pyrazolo[1,5-a]pyridine-3-amine hydrochloride (16 g) was added saturated sodium bicarbonate water (200 mL) to give neutrality. Then, ethyl acetate (100 mL) was added to this, and an organic layer was separated. From the organic layer, the solvent was distilled off under reduced pressure. Into the resulting residue was dropped acetonitrile (30 mL) and water (120 mL), the mixture was stirred overnight, and the resulting precipitate was filtrated. The precipitate was dried under reduced pressure, and 13 g of a title compound was obtained as white crystal.

reactant | N-cyclopropylmethyl-2-ethyl-7-iodo-N-(tetrahydro-2H-pyran-4-ylmethyl)pyrazolo[1,5-a]pyridine-3-amine hydrochloride | 16 g | Cl.C1(CC1)CN(C=1C(=NN2C1C=CC=C2I)CC)CC2CCOCC2
reactant | sodium bicarbonate water | 200 mL | O.C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-Cyclopropylmethyl-2-ethyl-7-iodo-N-(tetrahydro-2H-pyran-4-ylmethyl)pyrazolo[1,5-a]pyridine-3-amine | 13 g | C1(CC1)CN(C=1C(=NN2C1C=CC=C2I)CC)CC2CCOCC2 | C19H26IN3O
